US05523280
3-(2,2Difluoro-1,3-benzodioxol-4-yl)-4-pyrazolediazonium tetrafluoroborate (compound 145)
3-(2,2-Difluoro-1,3-benzodioxol-4-yl)-4-nitropyrazole obtained above in Example 17 is reduced to 4-amino-3-(2,2-difluoro-1,3-benzodioxol-4yl)pyrazole according to the method described by Vogel (Practical Organic Chemistry, Fourth Edition p. 660: Fe/HCl). 0.8 g (0.003 mol) of 4-amino-3-(2,2-difluoro-1,3-benzodioxol-4-yl)pyrazole in solution in 10 ml of anhydrous THF is treated at 0° C. with a solution of 10 ml of THF-containing 1 ml (0.0081 mol) of boron trifluoride etherate. 0.6 ml (0.005 mol) of tert-butyl nitrite in solution in 5 ml of THF are then added to the reaction mixture. Stirring is maintained for 1 hour at 0° C., the reaction mixture is then diluted with pentane and filtered on a sintered glass. After drying, a beige powder is obtained.

reactant | 4-amino-3-(2,2-difluoro-1,3-benzodioxol-4yl)pyrazole | NC=1C(=NNC1)C1=CC=CC=2OC(OC21)(F)F | C10H7F2N3O2
reactant | 4-amino-3-(2,2-difluoro-1,3-benzodioxol-4-yl)pyrazole | 0.003 mol, 0.8 g | NC=1C(=NNC1)C1=CC=CC=2OC(OC21)(F)F | C10H7F2N3O2
reactant | boron trifluoride etherate | 0.0081 mol, 1 ml | B(F)(F)F.CCOCC
reactant | tert-butyl nitrite | 0.005 mol, 0.6 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
catalyst | Fe HCl | [Fe].Cl
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(2,2Difluoro-1,3-benzodioxol-4-yl)-4-pyrazolediazonium tetrafluoroborate | F[B-](F)(F)F.FC1(OC2=C(O1)C=CC=C2C2=NNC=C2[N+]#N)F | InChI=1S/C10H5F2N4O2.BF4/c11-10(12)17-7-3-1-2-5(9(7)18-10)8-6(15-13)4-14-16-8;2-1(3,4)5/h1-4H,(H,14,16);/q+1;-1
